data/oMe_Silver.jsonl
{"reaction_id": "NR-076_1-C(C)(C)C_2-C(C)(C)C","name": "Ganem Oxidation","level": "medium","reactants_smiles": ["C(Br)(C(C)(C)C)(C(C)(C)C)","[O-][N+](CC)(CC)CC"],"products_smiles": ["C(=O)(C(C)(C)C)(C(C)(C)C)"],"conditions": "","mechnism_text_description": "The Ganem oxidation is the oxidation of benzylic or allylic halides to aldehydes or ketones. The mechanism begins with the nucleophilic oxygen of the trialkylamine N-oxide attacking the electrophilic carbon of the halide in an SN2 reaction, displacing the halide and forming an alkoxyammonium salt intermediate. In the second step, a base (like triethylamine, which can be a byproduct) abstracts an alpha-proton, leading to an E2 elimination. This forms a carbon-oxygen double bond and expels triethylamine as a leaving group, resulting in the final carbonyl compound.","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(O[N+](CC)(CC)CC)(C(C)(C)C)(C(C)(C)C)","step_weight": 0,"rationale": "The oxygen of the N-oxide is strongly nucleophilic due to its negative polarization, enabling backside SN2 attack on the electrophilic halide carbon, which is further activated by resonance or inductive effects from C(C)(C)C/C(C)(C)C, displacing the halide."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(C(C)(C)C)(C(C)(C)C)","step_weight": 0,"rationale": "A base abstracts the acidic α-proton adjacent to the positively charged oxygen, facilitating E2 elimination; the driving force is formation of the stable C=O bond and expulsion of neutral trialkylamine as a good leaving group."}],"description": "The Ganem oxidation converts benzylic or allylic halides into carbonyl compounds via nucleophilic substitution by an N-oxide, followed by base-induced elimination. The reaction leverages the electrophilicity of the halide carbon and the good leaving group ability of the trialkylamine, under mild, non-metal conditions."}
{"reaction_id": "NR-115_10-C_1-c1ccccc1_2-c1c[nH]cc1_3-C_4-c1ccc(Cl)cc1_5-c1ccc(F)cc1_6-C_7-C(C)C_8-c1ccc2ccccc2c1_9-CC(C)CC","level": "medium","name": "Ireland-Claisen Rearrangement","reactants_smiles": ["C(=C(C)C(O/C(=C(/C)C(C)C)/O[Si](c1ccc2ccccc2c1)(CC(C)CC)(C))(c1ccc(F)cc1)c1ccc(Cl)cc1)(c1ccccc1)c1c[nH]cc1"],"products_smiles": ["C(=C(C)C(C(C(=O)O[Si](c1ccc2ccccc2c1)(CC(C)CC)(C))(C(C)C)C)(c1ccc(F)cc1)c1ccc(Cl)cc1)(c1ccccc1)c1c[nH]cc1"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=C(C)C(C(C(=O)O[Si](c1ccc2ccccc2c1)(CC(C)CC)(C))(C(C)C)C)(c1ccc(F)cc1)c1ccc(Cl)cc1)(c1ccccc1)c1c[nH]cc1","step_weight": 0,"rationale": "Thermal activation enables a concerted [3,3]-sigmatropic shift via a six-membered transition state, favored by the stability of the resulting carbonyl and relief of allylic strain in the silyl ketene acetal."}],"description": "Upon heating, the silyl ketene acetal undergoes a [3,3]-sigmatropic Ireland–Claisen rearrangement, shifting the allyl group to form a new C–C bond adjacent to the carbonyl. The process is thermally allowed and driven by the formation of a more stable, conjugated carbonyl system."}
